USRE029843
Preparation of 4-Isobutyl-5-Methoxythiazole
A 500 ml flask equipped with heating mantle, condenser, and drying tube is charged with 27.25 g (0.125 mole) of phosphorus pentasulfide, 17.3 g (0.1 mole) of N-formylleucine methyl ester, and 250 ml of chloroform, and the contents are refluxed for 24 hours. The reaction mixture is thereupon cooled to room temperature, washed with 250 ml of 10% potassium hydroxide, and then washed with 250 ml of distilled water.

reactant | phosphorus pentasulfide | 0.125 mole, 27.25 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | N-formylleucine methyl ester | 0.1 mole, 17.3 g | COC([C@@H](NC=O)CC(C)C)=O | C8H15NO3
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Isobutyl-5-Methoxythiazole | C(C(C)C)C=1N=CSC1OC | C8H13NOS
